Test to see if 'GND' substituted correctly, unnecessary components removed.
*******************************************************************
* Tier: ?????
* Directory/Circuit name:  REDUND_REMOVE/gnd_and_redund.cir
* Description:  Runs a transient analysis to check operation of level 1 diode
*		in the forward active region.
* Input:  V1=V(1)
* Output: V(2) (output of resistive divider)
*
* This circuit implements a DC sweep on a simple resistive divider.  The 
* output voltage V(2) should equal 0.5V(1) exactly.  In addition to creating
* the simple resistive divider, however, we add in LOTS of "junk" components--
* components for which all of the nodes are the same (for MOSFETS and BJTS, we
* require only that the first three nodes are the same, i.e., we ignore the 
* bulk node).  Removal of such "redundant" nodes is specified on a line called
* '.PREPROCESS' by adding the types of components for which we want to check
* for redundancy.  That is,
*
* .PREPROCESS r,l,m
*
* will cause Xyce to check each resistor, inductor, and mosfet to see if all
* of its nodes are the same.  If so, it will be removed from the circuit.  Any
* circuit devices that are *not* specified in the '.PREPROCESS' line will not 
* be removed even if redundancy exists.  This means that if the line 
*
* C1 2 2 1
*
* appears in the same netlist as the above '.PREPROCESS' statement, the 
* capacitor C1 will *not* be removed from the netlist and an error will occur.
* In the netlist we produce in this file, we add redundant components in the 
* main circuit and two different levels of subcircuits and specifiy a 
* preprocess statement to remove all redundant components.  Current components
* which are supported for redundancy are (Component/.PREPROCESS keyword):
* Capacitor/C, Diode/D, Independent Current Source/I, Inductor/L, MOSFET/M,
* BJT/Q, Resistor/R, and Independent voltage source/V.  Note that if mutual 
* inductors are present, removal of redundant inductors could cause Xyce to 
* crash.  
*
* The other thing we check in this netlist is whether synonyms for ground are
* appropriately handled.  I recently added some new functionality so that if
* Xyce encounters the nodes 'GND', 'GND!', 'GROUND' or any capital/lowercase
* variant thereof (e.g. 'GrOUnD'), it will treat the node as node 0.  We add
* a bunch of instances of such nodes in various parts of the netlist.
*
* SPECIAL NOTE:  xyce-verify.pl still "sees" all of the DC sources, whether 
*                they're redundant and have been removed or not.  So, for
*                the netlist below, xyce-verify sees 4 independent voltage
*                sources and 3 independent current sources.  It doesn't make 
*                a difference in this simulation, but this might have some 
*                affect in future sims.
*
* Created by:  K. R. Santarelli 10/07
*
*******************************************************************

V1 1 0 1
R1 1 2 1
R2 2 gND 2
X1 2 ground resistor
C1 2 gnd 1 


*Some unnecessary components in the main circuit: 
C11 gnd! GROUND 1 
D11 1 1 Dmod
I11 0 0 4
L11 2 2 3
M11 gnd GROUND gnd! 2 Nmod
Q11 2 2 2 3 Qmod
R11 1 1 1
V11 3 3 4

.subckt resistor 1 2
R1 1 2 2
X2 1 2 capacitor
*Some unnecessary components in the first subcircuit
C11 gnd! GROUND 1
D11 1 1 Dmod
I11 0 0 4
L11 2 2 3
M11 gnd GROUND gnd! 2 Nmod
Q11 2 2 2 3 Qmod
R11 1 1 1
V11 3 3 4
.ends

.subckt capacitor 1 2
C1 1 2 1
*Some unnecessary components in the first subcircuit
C11 gnd! GROUND 1
D11 1 1 Dmod
I11 0 0 4
L11 2 2 3
M11 gnd GROUND gnd! 2 Nmod
Q11 2 2 2 3 Qmod
R11 1 1 1
V11 3 3 4
.ends

.model Dmod D
.model Nmod NMOS
.model Qmod NPN

.PREPROCESS removeunused c,d,i,l,m,q,r,v
.PREPROCESS replaceground true
.DC V1 -1 1 0.1
.print DC V(1) V(2)
.end
